US09403835B2
Step 1: 3-(5-fluoro-2-formyl-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester
tBuOK (948 mg; 8.44 mmol; 1.2 eq.) was added to a solution of 3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester (1.46 g; 8.44 mmol; 1.2 eq.) in 1,4-dioxane (5 mL) and the solution was stirred at room temperature for 15 minutes whereupon a solution of 2,4-difluoro-benzaldehyde (1 g; 7.04 mmol; 1 eq.) in 1,4-dioxane (5 mL) was added dropwise. The reaction mixture was stirred at room temperature for 5 minutes then diluted with water. The solution was extracted with DCM (2×) and the combined organic phase was dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (heptanes/EA) afforded the title compound (705 mg, 34%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 10.41 (d, J=0.8 Hz, 1H), 7.93 (dd, J=8.7, 6.8 Hz, 1H), 6.99-6.72 (m, 1H), 6.33 (dd, J=10.2, 2.2 Hz, 1H), 5.07-4.85 (m, 1H), 4.40 (ddd, J=9.9, 6.4, 1.1 Hz, 2H), 4.10 (ddd, J=9.9, 4.0, 1.1 Hz, 2H), 1.48 (s, 9H). HPLC (max plot) 96.4%; Rt 4.22 min.

reactant | tBuOK | 8.44 mmol, 948 mg, 1.2 eq. | C(C)(C)(C)O[K]
reactant | 3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester | 8.44 mmol, 1.46 g, 1.2 eq. | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
reactant | 2,4-difluoro-benzaldehyde | 7.04 mmol, 1 g, 1 eq. | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-(5-fluoro-2-formyl-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 705 mg, 34% | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC(=C1)F)C=O | C15H18FNO4
